US08097613B2
Palladium on carbon (4.26 g, 5%, “50% wet”, Alfa) was added to a solution of rac-2-methyl-2-(3-methyl-but-2-enyl)-malonic acid diethyl ester (12.15 g, 50.1 mmol) in ethyl acetate (225 mL) at 25° C. The atmosphere above the reaction mixture was evacuated and replaced with hydrogen from a balloon (3 cycles). The reaction mixture was then stirred under an atmosphere of hydrogen (3 balloons) at 25° C. for 21 h, and then was filtered through Celite. The filtrate was concentrated in vacuo to afford rac-2-methyl-2-(3-methyl-butyl)-malonic acid diethyl ester (11.91 g, 48.7 mmol, 98%) as a colorless oil. 1H NMR (400 MHz, CDCl3) δ: 0.89 (6H, d, J=7.0 Hz), 1.07-1.13 (2H, m), 1.25 (6H, t, J=6.9 Hz), 1.39 (1H, s), 1.48-1.57 (1H, m), 1.84-1.88 (1H, m), 4.13-4.21 (2H, m).

reactant | rac-2-methyl-2-(3-methyl-but-2-enyl)-malonic acid diethyl ester | 50.1 mmol, 12.15 g | C(C)OC(C(C(=O)OCC)(CC=C(C)C)C)=O | C13H22O4
catalyst | Palladium on carbon | 4.26 g | [Pd] | Pd
solvent | ethyl acetate | 225 mL | C(C)(=O)OCC | C4H8O2
product | rac-2-methyl-2-(3-methyl-butyl)-malonic acid diethyl ester | 48.7 mmol, 11.91 g, 98% | C(C)OC(C(C(=O)OCC)(CCC(C)C)C)=O | C13H24O4
